US08476297B2
(R)-Pyrrolidin-2-yl((R)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-yl)methanone
To a stirred mixture of (R)-1-(tert-butoxy-carbonyl)pyrrolidine-2-carboxylic acid (0.078 g, 0.36 mmol), (R)-1-(4-(trifluoro-methyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (0.100 g, 0.36 mmol) and DIEA (0.047 g, 0.36 mmol) in DMF (2 mL) was added HATU (0.14 g, 0.36 mmol). The reaction mixture was continued to stir overnight at RT, hydrolyzed with H2O, extracted with DCM (3×), dried over Na2SO4, concentrated and purified by ISCO (20% EtOAc/hexanes) to give the white solid which was dissolved in p-dioxane (2 mL) and added 1 mL of 4M HCl in p-dioxane. The mixture was continued to stir at RT overnight, concentrated, taken up in H2O, and neutralized by saturated aqueous NaHCO3, and filtered the light yellow solid which was dried by air. MS (ESI, positive ion) m/z: 375 (M+1).

reactant | (R)-1-(tert-butoxy-carbonyl)pyrrolidine-2-carboxylic acid | 0.36 mmol, 0.078 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | (R)-1-(4-(trifluoro-methyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 0.36 mmol, 0.100 g | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 0.36 mmol, 0.047 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.36 mmol, 0.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | 4M, 1 mL | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | p-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | (R)-Pyrrolidin-2-yl((R)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-yl)methanone | N1[C@H](CCC1)C(=O)N1[C@@H](C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C21H21F3N2O
